US06500985B2
Process for producing (3S)-3-benzyloxycarbonylamino-1-chloro-4-phenyl-2-butanone
(3S)-3-amino-1-chloro-4-phenyl-2-butanone hydrochloride (100 mg) was dissolved in water (4.3 ml), and a toluene solution (5.3 ml) of benzyl chloroformate (0.794 ml) was added thereto. An aqueous solution (1.0 ml) of sodium hydrogencarbonate (71.9 mg) was further added dropwise thereto while being stirred. After the mixture was reacted at room temperature for 50 minutes while being stirred, the aqueous layer was separated. The resulting toluene layer was analyzed by HPLC, and it was identified that (3S)-3-benzyloxycarbonylamino-1-chloro-4-phenyl-2-butanone (118 mg) was obtained in a yield of 83%.

reactant | (3S)-3-amino-1-chloro-4-phenyl-2-butanone hydrochloride | 100 mg | Cl.N[C@H](C(CCl)=O)CC1=CC=CC=C1
reactant | toluene | 5.3 ml | C1(=CC=CC=C1)C | C7H8
reactant | benzyl chloroformate | 0.794 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium hydrogencarbonate | 1.0 ml, 71.9 mg | C(O)([O-])=O.[Na+]
solvent | water | 4.3 ml | O | H2O
product | (3S)-3-benzyloxycarbonylamino-1-chloro-4-phenyl-2-butanone | yield of 83% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CCl)=O)CC1=CC=CC=C1 | C18H18ClNO3
